US05395944
b) 7-Benzyl-1-cyano-3-oxa-7-azabicyclo[3.3.0]octane
A solution of 5.2 g (24.6 mmol, 46% strength) of 3-cyano-2,5-dihydrofuran in 50 ml of absolute methylene chloride is mixed with 0.3 g of triethylamine and 0.3 g of trifluoroacetic acid, the mixture is heated under reflux and then 7 g (29.5 mmol) of N-benzyl-N-methoxymethyl-N-(trimethylsilylmethyl)-amine are added dropwise. Subsequently, the mixture is heated under reflux for 2 hours and the solution is washed with saturated sodium hydrogen carbonate solution, dried over magnesium sulphate, concentrated and distilled.

reactant | 3-cyano-2,5-dihydrofuran | 24.6 mmol, 5.2 g | C(#N)C=1COCC1 | C5H5NO
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 0.3 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N-methoxymethyl-N-(trimethylsilylmethyl)-amine | 29.5 mmol, 7 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 7-Benzyl-1-cyano-3-oxa-7-azabicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1CC2COCC2(C1)C#N | C14H16N2O
